US09120749B2
ALB 150143 (6-(3-chloro-4-hydroxyphenyl)-4-((1-(piperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure A-2, tert-butyl 4-(4-((6-(3-chloro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.10 mmol) was reacted with TFA (2 mL) to afford the desired product (27 mg, 55% over 2 steps) as a yellow solid. 1H NMR (500 MHz, DMSO-d6) δ 10.99 (s, 1H), 9.12 (s, 1H), 8.18 (d, J=2.2 Hz, 1H), 8.02-7.96 (m, 1H), 7.92-7.86 (m, 2H), 7.45 (d, J=2.3 Hz, 1H), 7.41 (s, 1H), 7.28-7.22 (m, 1H), 7.01 (d, J=8.5 Hz, 1H), 4.24-4.14 (m, 1H), 3.06-2.99 (m, 2H), 2.94-2.85 (m, 1H), 2.62-2.53 (m, 2H), 1.95-1.89 (m, 2H), 1.83-1.71 (m, 2H), 1.02-0.97 (m, 4H). ESI MS m/z 488 [C27H26ClN5O2+H]+; HPLC>99% (AUC), tR=9.30 min.

reactant | tert-butyl 4-(4-((6-(3-chloro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.10 mmol | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C32H34ClN5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (6-(3-chloro-4-hydroxyphenyl)-4-((1-(piperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)(cyclopropyl)methanone | 27 mg, 55% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCNCC1 | C27H26ClN5O2
